US04248881
D. 5-Chloro-4-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-3-methyl-1-phenyl-1H-pyrazole, hydrochloride (1:1)
In a three-necked flask, fitted with stirrer, reflux condenser and gas inlet tube are introduced 24.3 g of sodium hydroxide (0.61 mol) and 23 ml of water. While passing nitrogen through the flask, the solution is cooled to 45° C. and then are added 6.5 g of 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol (0.025 mol), 0.25 g of benzyltrimethyl-ammonium chloride and 40 ml of tetrahydrofuran. To the mixture, which is warmed to 50° C., are added 6.1 g of 5-chloro-4-chloromethyl-3-methyl-1-phenylpyrazole (0.025 mol). The mixture is stirred vigorously for 3 hours at 60° C. using a water bath. Then the warm mixture is transferred into a separating funnel, and the lower aqueous sodium hydroxide is extracted with 15 ml of tetrahydrofuran. The combined tetrahydrofuran layers are dried with sodium sulfate, trated with charcoal and distilled off to half of their volume. Addition of ether to the mixture causes a deposit of an oily side product. The clear solution (containing 5-chloro-4-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-3-methyl-1-phenyl-1H-pyrazole) is decanted and after addition of ethereal hydrochloric acid, 9 g of 5-chloro-4-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)-ethoxy]methyl]-3-methyl-1-phenyl-1H-pyrazole, hydrochloride (1:1) precipitate. Recrystallization from acetonitrile gives 6.9 g=55%, m.p. 184°-185° C.

reactant | sodium hydroxide | 0.61 mol, 24.3 g | [OH-].[Na+]
reactant | water | 23 ml | O | H2O
reactant | 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol | 0.025 mol, 6.5 g | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)O | C11H10Cl2N2O
reactant | 5-chloro-4-chloromethyl-3-methyl-1-phenylpyrazole | 0.025 mol, 6.1 g | ClC1=C(C(=NN1C1=CC=CC=C1)C)CCl | C11H10Cl2N2
catalyst | benzyltrimethyl-ammonium chloride | 0.25 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 5-Chloro-4-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-3-methyl-1-phenyl-1H-pyrazole, hydrochloride | Cl.ClC1=C(C(=NN1C1=CC=CC=C1)C)COC(CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl | InChI=1S/C22H19Cl3N4O.ClH/c1-15-19(22(25)29(27-15)17-5-3-2-4-6-17)13-30-21(12-28-10-9-26-14-28)18-8-7-16(23)11-20(18)24;/h2-11,14,21H,12-13H2,1H3;1H
